US07691850B2
b) Methyl 7-methyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate
Methyl 7-bromo-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate (1.44 g, 4.75 mmol) was dissolved in DMF (20 mL) and treated with PdCl2(PPh3)2 (167 mg, 0.238 mmol), LiCl (604 mg, 14.2 mmol) and Me4Sn (0.66 mL, 4.75 mmol). The reaction was heated at 100° C. for 30 min, at which point the reaction was no longer proceeding. An additional 0.25 mL of Me4Sn was added and the reaction was heated for an additional 4 h. After cooling, the reaction was diluted with DCM and water. The product was extracted into DCM and the combined extract was dried (Na2SO4) and filtered and the concentrated in vacuo. Purification provided product (500 mg).

reactant | Methyl 7-bromo-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate | 4.75 mmol, 1.44 g | BrC1=CC=2SCC(NC2N=C1C(=O)OC)=O | C9H7BrN2O3S
reactant | LiCl | 14.2 mmol, 604 mg | [Li+].[Cl-]
reactant | Me4Sn | 4.75 mmol, 0.66 mL | [Sn](C)(C)(C)C
reactant | Me4Sn | 0.25 mL | [Sn](C)(C)(C)C
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | PdCl2(PPh3)2 | 0.238 mmol, 167 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 7-methyl-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate | 500 mg | CC1=CC=2SCC(NC2N=C1C(=O)OC)=O | C10H10N2O3S
